US08629270B2
(4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride
A solution of N-[(4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide (215 mg, 0.496 mmol), O-methylhydroxylamine hydrochloride (207 mg, 2.48 mmol), and pyridine (392 mg, 4.96 mmol) in ethanol (5 ml) is stirred at 55° C. for 4 hours. The mixture is quenched with a solution of saturated sodium bicarbonate in water, and extracted with ethyl acetate. The organic layers are combined, dried, filtered, and concentrated under reduced pressure to give a residue. The residue is purified by silica gel flash chromatography, eluting with hexane/ethyl acetate (1:0) to hexane/ethyl acetate (0:1) to give a residue as the free base of the title compound. The residue is dissolved in 1 N hydrochloric acid (4 ml), and the solvent removed by a stream of nitrogen. The resulting solid is further purified by dissolving in 1/1 acetonitrile/methanol (4 ml) and precipitating with ethyl ether (2-3 ml). The solid is collected and dried under reduced pressure at 50° C. to give the title compound (0.10 g, 55%). ES/MS (m/e): 330 (M+H).

reactant | N-[(4aR,7aS)-6-(5-fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 0.496 mmol, 215 mg | FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)NC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C23H20FN5OS
reactant | O-methylhydroxylamine hydrochloride | 2.48 mmol, 207 mg | Cl.CON
reactant | pyridine | 4.96 mmol, 392 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | (4aR,7aS)-6-(5-Fluoropyrimidin-2-yl)-7a-phenyl-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazin-2-amine hydrochloride | Cl.FC=1C=NC(=NC1)N1C[C@@]2(N=C(SC[C@@H]2C1)N)C1=CC=CC=C1 | InChI=1S/C16H16FN5S.ClH/c17-13-6-19-15(20-7-13)22-8-12-9-23-14(18)21-16(12,10-22)11-4-2-1-3-5-11;/h1-7,12H,8-10H2,(H2,18,21);1H/t12-,16+;/m0./s1
